US04935432
A mixture of 4-(3-indolyl)piperidine (7.88 g), N-(2-bromoethyl)phthalimide (10.0 g) and sodium hydrogen carbonate (3.64 g) in dry N,N-dimethylformamide (93 ml) was heated at 68°-74° C. for 4 hours. After cooling, the reaction mixture was poured into ice-water (1,000 ml). The resulting precipitate was collected by filtration and washed with methanol to give 1-(2-phthalimidoethyl)-4-(3-indolyl)piperidine (5.53 g).

reactant | 4-(3-indolyl)piperidine | 7.88 g | N1C=C(C2=CC=CC=C12)C1CCNCC1 | C13H16N2
reactant | N-(2-bromoethyl)phthalimide | 10.0 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | sodium hydrogen carbonate | 3.64 g | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 93 ml | CN(C=O)C | C3H7NO
product | 1-(2-phthalimidoethyl)-4-(3-indolyl)piperidine | 5.53 g | C1(C=2C(C(N1CCN1CCC(CC1)C1=CNC3=CC=CC=C13)=O)=CC=CC2)=O | C23H23N3O2
